US05646166
1-[5-Acetyl-4-(2,4,5-trichlorophenyl)-1,2,6-trimethyl-1,4-dihydropyridin-3-yl]ethanone
5.0 g (23.9 mmol) of 2,4,5-trichlorobenzaldehyde, 4.8 g (47.8 mmol) of acetylacetone and 1.78 g (26.3 mmol) of methylamine hydrochloride are boiled under reflux for 5 h in 4 ml of pyridine. The pyridine is then stripped off and the residue is codistilled twice with toluene. It is taken up in AcOEt and the solution is extracted with 1N aqueous HCl. Drying and concentration of the aqueous phase yields a brown oil, which is purified by flash chromatography (petroleum ether/AcOEt=5:1). The product is finally recrystallized from ether. 4.2 g of the title compound (45% of theory) are obtained. MS:385 Rf =0.65 (petroleum ether: AcOEt:=1:1)

reactant | 2,4,5-trichlorobenzaldehyde | 23.9 mmol, 5.0 g | ClC1=C(C=O)C=C(C(=C1)Cl)Cl | C7H3Cl3O
reactant | acetylacetone | 47.8 mmol, 4.8 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | methylamine hydrochloride | 26.3 mmol, 1.78 g | Cl.CN
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | 1-[5-Acetyl-4-(2,4,5-trichlorophenyl)-1,2,6-trimethyl-1,4-dihydropyridin-3-yl]ethanone | 4.2 g, 45% | C(C)(=O)C=1C(C(=C(N(C1C)C)C)C(C)=O)C1=C(C=C(C(=C1)Cl)Cl)Cl | C18H18Cl3NO2
